US05256523
Preparation of 1-Tert-butyl-2-tetrazoline-5-thione (Ia)
Combined solutions of 50.0 g (0.435 mol) tert-butyl isothiocyanate in 125 ml ethanol and 56.6 g (0.850 mol) sodium azide in 900 ml water were heated under reflux with stirring for 5.5 hours. After cooling, the solution was acidified to pH 1 with hydrochloric acid and extracted with ether. The extracts were washed with water and aqueous saturated sodium chloride solution, dried over magnesium sulfate, and evaporated to yield 21 g of colorless oil which later crystallized. The product of a repeat of this preparation was triturated with ligroine to yield colorless crystals of Ia mp 92°-94°, confirmed by NMR, infrared, and mass spectral data as well as elemental analysis.

reactant | tert-butyl isothiocyanate | 0.435 mol, 50.0 g | C(C)(C)(C)N=C=S | C5H9NS
reactant | sodium azide | 0.850 mol, 56.6 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 900 ml | O | H2O
product | 1-Tert-butyl-2-tetrazoline-5-thione | 21 g | C(C)(C)(C)N1N=NNC1=S | C5H10N4S
